US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-8-isopropoxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-1-yl-acetamide
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-1-yl-acetamide with 2-bromopropane.

reactant | 2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-1-yl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)O)CC(=O)NC3CCC2=CC=CC=C32)C=CC1OC | C31H36N2O5
reactant | 2-bromopropane | BrC(C)C | C3H7Br
product | 2-[1-(3,4-Dimethoxy-benzyl)-8-isopropoxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-indan-1-yl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC(C)C)CC(=O)NC3CCC2=CC=CC=C32)C=CC1OC | C34H42N2O5
